US05679791
Preparation of 3-(2-Chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetic acid
A solution of isopropyl 3-(2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate (48.7 g, 0.0508 mol) in concentrated sulfuric acid is cooled to 0° C., treated with 90% nitric acid (2.6 mL), stirred at room temperature overnight, treated with 90% nitric acid (1.0 mL), stirred for 4 hours, treated with 90% nitric acid (2.0 mL), stirred at room temperature overnight, treated with 90% nitric acid (1.0 mL), stirred for 1 hour and poured onto ice. The resultant aqueous solution is filtered to obtain a solid. A solution of the solid in ether is dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a yellow foam which is identified by NMR spectral analyses.

reactant | isopropyl 3-(2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 0.0508 mol, 48.7 g | ClC1=C(C=CC(=C1)F)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C15H15ClFN3O5
reactant | nitric acid | 2.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 2.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1.0 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-(2-Chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetic acid | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C(N(C1=O)C)=O)CC(=O)O)=O | C12H8ClFN4O7
